US08809369B2
A mixture of 4-aminobenzoic acid ethyl ester (3.3 g, 20 mmol), 3-methanesulfonyl benzaldehyde (3.68 g, 20 mmol) and ytterbium(III) triflate hydrate (1.86 g, 3 mmol) in acetonitrile (150 mL) was cooled to 0° C. in a sealed reaction bottle. Then a cooled solution of isobutene (5.6 g, 100 mmol) was added into. The reaction mixture was heated to 90° C. and stirred for 12 h. The solvent was removed in vacuo and the residue was purified on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (10% ethyl acetate/hexanes) to afford 2-(3-methanesulfonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (3.3 g, 43%) as a white solid: MS (ESI) M+1=388.3.

reactant | 4-aminobenzoic acid ethyl ester | 20 mmol, 3.3 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | 3-methanesulfonyl benzaldehyde | 20 mmol, 3.68 g | CS(=O)(=O)C=1C=C(C=O)C=CC1 | C8H8O3S
reactant | ytterbium(III) triflate hydrate | 3 mmol, 1.86 g | O.[O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | isobutene | 100 mmol, 5.6 g | C=C(C)C | C4H8
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-(3-methanesulfonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 3.3 g, 43% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)S(=O)(=O)C)(C)C | C21H25NO4S
